US05028629
To dry methylene chloride (32 ml) there is added 2-methylthio-5-(3-phenylpropyl)cinnamic acid (1.0 g, 3.2 mmol). To this mixture is added DMF (0.25 ml, 3.2 mmol) and the reaction mixture cooled in an ice bath. Oxalyl chloride (.61 ml, 7.04 mmol) is slowly added dropwise and the resulting mixture stirred at room temperature for 2 hours to afford 2-methylthio-5-3-phenylpropyl)cinnamic acid chloride in solution.

reactant | 2-methylthio-5-(3-phenylpropyl)cinnamic acid | 3.2 mmol, 1.0 g | CSC1=C(C=CC(=O)O)C=C(C=C1)CCCC1=CC=CC=C1 | C19H20O2S
reactant | DMF | 3.2 mmol, 0.25 ml | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 7.04 mmol, .61 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 32 ml | C(Cl)Cl | CH2Cl2
product | cinnamic acid chloride | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
